US06900354B2
c) 3-[4-(3-Fluoro-benzyloxy)-phenyl]-2-methyl-acrylic acid
383 mg (1.28 mmol) of 3-[4-(3-fluoro-benzyloxy)-phenyl]-2-methyl-acrylic acid methyl ester is added to a solution of 143 mg (2.55 mmol) potassium hydroxide in 7 ml methanol. The solution is stirred at 65° C. for about 3 h, evaporated to dryness, treated with aqueous 0.1 molar hydrochloric acid and extracted 3 times with ethyl acetate. Evaporation of the solvent leaves the pure acid. 305 mg (84%) of a colorless solid. MS (neg.ions): m/e=285.0 (M−H).

reactant | 3-[4-(3-fluoro-benzyloxy)-phenyl]-2-methyl-acrylic acid methyl ester | 1.28 mmol, 383 mg | COC(C(=CC1=CC=C(C=C1)OCC1=CC(=CC=C1)F)C)=O | C18H17FO3
reactant | potassium hydroxide | 2.55 mmol, 143 mg | [OH-].[K+]
solvent | methanol | 7 ml | CO | CH4O
product | 3-[4-(3-Fluoro-benzyloxy)-phenyl]-2-methyl-acrylic acid | FC=1C=C(COC2=CC=C(C=C2)C=C(C(=O)O)C)C=CC1 | C17H15FO3
